L1 (VDD VOUT1) inductor
L0 (VOUT2 VDD) inductor
M5 (IB1 IB1 net7 net7) nmos4
M4 (net15 IB1 VSS VSS) nmos4
M3 (VOUT2 VOUT1 net15 VSS) nmos4
M2 (VOUT1 VOUT2 net15 VSS) nmos4
M1 (VB1 VOUT1 VB1 VSS) nmos4
M0 (VB1 VOUT2 VB1 VSS) nmos4
C0 (net15 net7) capacitor